US04154834
2-[2-(3-Bromo-4-methyl-2-pyridylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone
2-(3-Bromo-4-methyl-2-pyridylmethylthio)ethylamine (1.5 g) and 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone (1.0 g) were fused together at 160°-170° for 1 hour. The cool mixture was taken up in water at pH 2 and extracted with chloroform. The aqueous phase was adjusted to pH 7 and extracted with chloroform, and the chloroform extract was evaporated and the residue purified chromatographically on silica gel (eluting with chloroform/ammoniacal methanol 50:1) to give the title compound, m.p. 81°-85°

reactant | 2-(3-Bromo-4-methyl-2-pyridylmethylthio)ethylamine | 1.5 g | BrC=1C(=NC=CC1C)CSCCN | C9H13BrN2S
reactant | 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone | 1.0 g | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
solvent | water | O | H2O
product | 2-[2-(3-Bromo-4-methyl-2-pyridylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | BrC=1C(=NC=CC1C)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C19H20BrN5OS
